US08232278B2
Synthesis of 2-[(3-chloro-4-fluoro-anilino)-4-[(N-3-methylphenylcarbamoyl)-piperazin-1-yl]-6-(3,4-dimethoxyphenyl)-pyrido[3,2-d]pyrimidine
A suspension of 2-chloro-4-[(N-3-methyl-phenylcarbamoyl)-piperazin-1-yl]-6-(3,4-dimethoxyphenyl)-pyrido[3,2-d]pyrimidine (106 mg, 0.20 mmole), K2CO3 (62 mg, 0.45 mmole) and 3-chloro-4-fluoroaniline (60 mg 0.40 mmole) in a 1,4-dioxane/t-BuOH 5:1 mixture (2 ml) was purged with nitrogen for 15 minutes. Thereafter, tetrakis(triphenylphosphine)palladium(0) (28 mg, 24 μmol) was added and the reaction mixture was heated at reflux under a N2 atmosphere for 20 hours. Upon cooling, the mixture was partitioned between ethyl acetate and brine. The organic phase was evaporated under reduced pressure and the crude residue was purified by flash chromatography on silica, using an ethyl acetate/n-hexane mixture as the mobile phase (in a ratio gradually ranging from 1:1 to 4:1), thus affording the pure title compound (60 mg, yield 47%) which was characterized by its mass spectrum as follows: MS (m/z): 628 ([M+H]+, 100).

reactant | 2-chloro-4-[(N-3-methyl-phenylcarbamoyl)-piperazin-1-yl]-6-(3,4-dimethoxyphenyl)-pyrido[3,2-d]pyrimidine | 0.20 mmole, 106 mg | ClC=1N=C(C2=C(N1)C=CC(=N2)C2=CC(=C(C=C2)OC)OC)N2C(CNCC2)C(NC2=CC(=CC=C2)C)=O | C27H27ClN6O3
reactant | K2CO3 | 0.45 mmole, 62 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-chloro-4-fluoroaniline | 0.40 mmole, 60 mg | ClC=1C=C(N)C=CC1F | C6H5ClFN
catalyst | tetrakis(triphenylphosphine)palladium(0) | 24 μmol, 28 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,4-dioxane t-BuOH | O1CCOCC1.CC(C)(C)O
product | (3-chloro-4-fluoro-anilino)-4-[(N-3-methylphenylcarbamoyl)-piperazin-1-yl]-6-(3,4-dimethoxyphenyl)-pyrido[3,2-d]pyrimidine | 60 mg, yield 47% | ClC=1C=C(NC=2N=C(C3=C(N2)C=CC(=N3)C3=CC(=C(C=C3)OC)OC)N3C(CNCC3)C(NC3=CC(=CC=C3)C)=O)C=CC1F | C33H31ClFN7O3
